US06323366B1
Synthesis of 2-Amino-2′-(4′-methoxybenzyloxy)-1,1′-binaphthyl
A flask containing 2-(trifluoromethanesulfonyloxy)-2′-(4′-methoxybenzyloxy)-1,1′-binaphthyl (539 mg, 1.00 mmol), benzophenone imine (503 μL, 3.00 mmol), palladium acetate (11.2 mg, 0.0500 mmol), bis[2-(diphenylphosphino)phenyl]ether [DPE-phos] (40.4 mg, 0.0750 mmol), and triethylamine (70 μL) was purged with a gentle stream of argon for 20 minutes while stirring the mixture at room temperature. After this time, cesium carbonate (488 mg, 1.50 mmol) was added under a heavy stream of argon. The reaction mixture was then heated to 90° C. under an argon atmosphere for 32 hours. The reaction mixture was then cooled to room temperature and diluted with 30 mL of ethyl acetate. The organic solution was washed with a saturated aqueous sodium chloride solution (30 mL). The organic solution was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was redissolved in 10 mL of tetrahydrofuran and 10 mL of ethanol to be treated with 2.0 mL of 2.0 M aqueous hydrochloric acid. The solution was stirred for 1 hour and then was diluted with 30 mL of aqueous 2.0 M sodium hydroxide. The organics were extracted with 40 mL of ethyl acetate. The organic layer was washed with 30 mL of a saturated aqueous sodium chloride solution. The organic solution was dried over anhydrous sodium sulfate and was concentrated in vacuo. The product was isolated as a white solid (369 mg, 91%) by crystallization from isopropanol.

reactant | 2-(trifluoromethanesulfonyloxy)-2′-(4′-methoxybenzyloxy)-1,1′-binaphthyl | 1.00 mmol, 539 mg | FC(S(=O)(=O)OC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)OCC1=CC=C(C=C1)OC)(F)F | C29H21F3O5S
reactant | benzophenone imine | 3.00 mmol, 503 μL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | triethylamine | 70 μL | C(C)N(CC)CC | C6H15N
reactant | cesium carbonate | 1.50 mmol, 488 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.0500 mmol, 11.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | bis[2-(diphenylphosphino)phenyl]ether | 0.0750 mmol, 40.4 mg | C1(=CC=CC=C1)P(C1=C(C=CC=C1)OC1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28OP2
product | 2-Amino-2′-(4′-methoxybenzyloxy)-1,1′-binaphthyl | 369 mg, 91% | NC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)OCC1=CC=C(C=C1)OC | C28H23NO2
